US04959361
A solution of 15.7 g (0.04 mol) of 5-(2-chlorophenyl)-7-iodo-1,3-dihydro-2H-1,4-benzodiazepin-2-one in 350 ml of tetrahydrofuran was cooled to -30° C. potassium t-butoxide. 4.9 g (0.044 mol) was added and stirring under nitrogen was continued for 30 minutes at -10° to -5° C. Diethyl chlorophosphate, 6.6 ml, was then added and the mixture was stirred at this temperature for another 30 minutes. Following the addition of 3.4 g of acetyl hydrazine, stirring without cooling was continued for 1 hour and 150 ml of n-butanol was added. The tetrahydrofuran was distilled out of the reaction mixture over a period of 45 minutes. The residue was partitioned between water and toluene. The organic phase was washed with brine, dried over sodium sulfate and evaporated down to a small volume. The precipitated crystals were collected to leave 14 g of crude product which was purified by chromatography over 250 g of silica gel using 5% ethanol (V/V) in methylene chloride. The clean fractions were combined and evaporated. Crystallization from tetrahydrofuran/ethanol gave 8.5 g (49%) of 6-(2-chlorophenyl)-8-iodo-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepine with m.p. 290°-292° C.

reactant | 5-(2-chlorophenyl)-7-iodo-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 0.04 mol, 15.7 g | ClC1=C(C=CC=C1)C1=NCC(NC2=C1C=C(C=C2)I)=O | C15H10ClIN2O
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | Diethyl chlorophosphate | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | acetyl hydrazine | 3.4 g | C(C)(=O)NN | C2H6N2O
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
solvent | n-butanol | 150 ml | C(CCC)O | C4H10O
product | 6-(2-chlorophenyl)-8-iodo-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepine | 8.5 g, 49% | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)I)C(=NN2)C | C17H12ClIN4
